US07977344B2
N2-Pentyl-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2,6-diamine
To a solution of 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (500 mg) in dry ethylene glycol (2.3 mL) was added 1-pentylamine (689 mg). The solution was stirred at reflux (120° C.) overnight. The reaction was cooled, taken up in EtOAc (30 mL) and washed with water (2×20 mL). The organics were separated, dried over MgSO4, filtered and concentrated in vacuo to give the title compound as a viscous brown oil (561 mg).

reactant | 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 500 mg | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C10H12ClN5O
reactant | 1-pentylamine | 689 mg | C(CCCC)N | C5H13N
solvent | ethylene glycol | 2.3 mL | C(CO)O | C2H6O2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | N2-Pentyl-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2,6-diamine | 561 mg | C(CCCC)NC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C15H24N6O
